### PR TITLE
[Merged by Bors] - feat(Data/Fin/Basic): Expand definition of `BoundedOrder` and `Lattice` for `Fin`

### PR DESCRIPTION
**Pull request by wrenna-robson**
Redefine the BoundedOrder and Lattice on `Fin (n + 1)` so that they are defined for `Fin n`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by linesthatinterlace** [comment]
@YaelDillies

**Comment by eric-wieser** [comment]
Don't forget to adhere to the PR title convention

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -421,13 +421,13 @@ theorem rev_ne_iff {i j : Fin n} : rev i ≠ j ↔ i ≠ rev j := rev_eq_iff.not
 #align fin.last_val Fin.val_last
 #align fin.le_last Fin.le_last
 
-instance : BoundedOrder (Fin (n + 1)) where
-  top := last n
-  le_top := le_last
+instance [NeZero n] : BoundedOrder (Fin n) where
+  top := rev 0
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:425]: Remind me why we can't generalize `last` instead?

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -530,6 +532,12 @@ theorem nontrivial_iff_two_le : Nontrivial (Fin n) ↔ 2 ≤ n := by
 -- porting note: here and in the next lemma, had to use `← Nat.one_eq_succ_zero`.
 #align fin.nontrivial_iff_two_le Fin.nontrivial_iff_two_le
 
+theorem bot_ne_top : (⊥ : Fin (n + 2)) ≠ ⊤ := _root_.bot_ne_top
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:535]: I'm not sure I see the point in this lemma, given the proof

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -530,6 +532,12 @@ theorem nontrivial_iff_two_le : Nontrivial (Fin n) ↔ 2 ≤ n := by
...
+
+theorem bot_ne_top_iff_two_le [NeZero n] : (⊥ : Fin n) ≠ ⊤ ↔ 2 ≤ n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:537]: There ought to be a version elsewhere that says
`(⊥ : X) ≠ ⊤ ↔ NonTrivial X`

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/Fin/Basic.lean:425]: It's harder because in Std. We would need to upstream `NeZero`. Certainly this information should be recorded somewhere in this file

File: Mathlib/Data/Fin/Basic.lean [hunk 4]
```diff
@@ -437,14 +437,16 @@ theorem last_pos' [NeZero n] : 0 < last n := NeZero.pos n
...
+theorem top_eq_last (n : ℕ) : ⊤ = last n :=
   rfl
 #align fin.top_eq_last Fin.top_eq_last
 
-theorem bot_eq_zero (n : ℕ) : ⊥ = (0 : Fin (n + 1)) :=
+theorem bot_eq_zero (n : ℕ) [NeZero n] : ⊥ = (0 : Fin n) :=
   rfl
 #align fin.bot_eq_zero Fin.bot_eq_zero
 
+theorem bot_eq_top_of_fin_one : (⊥ : Fin 1) = (⊤ : Fin 1) := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Basic.lean:448]: That's just `Subsingleton.elim`, right?

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:425]: I had a go at generalising it and it turned out to be somewhat annoying to find precisely the right definition. We might also want to think about adjusting the definition of `Fin.ofNat'`, also. But essentially you are going to want to use either `Nat.pred` or `Fin.pred` in some way.

File: Mathlib/Data/Fin/Basic.lean (hunk 4 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:448]: It is, but it seemed useful to have the special case? Also I don't think this depends on the subsingleton result.

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:535]: I think you are probably right. I think there probably is a use for `zero_ne_last` though (for `Fin.pred` and `Fin.castPred` purposes).

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:425]: I think there's also an argument that an updated `Fin.last` should not take an argument (it should just come from its type).

File: Mathlib/Data/Fin/Basic.lean (hunk 3 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:537]: We have `bot_ne_top`, but we don't seem to have an `iff` version?

Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:537]: We have `subsingleton_iff_bot_eq_top` but I am not sure we have `nontrivial_iff_bot_ne_top`.

File: Mathlib/Data/Fin/Basic.lean (hunk 4 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean]: I have removed this.

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean]: I have removed this.

File: Mathlib/Data/Fin/Basic.lean (hunk 3 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean]: I have removed this.

**Comment by linesthatinterlace** [comment]
I have removed the extra lemmas which I sensed might cause controversy, to focus on the minor change at the core of the PR.

File: Mathlib/Data/Fin/Basic.lean [hunk 5]
```diff
@@ -437,11 +437,11 @@ theorem last_pos' [NeZero n] : 0 < last n := NeZero.pos n
 
 theorem one_lt_last [NeZero n] : 1 < last (n + 1) := (lt_add_iff_pos_left 1).mpr (NeZero.pos n)
 
-theorem top_eq_last (n : ℕ) : ⊤ = Fin.last n :=
+theorem top_eq_last (n : ℕ) : ⊤ = last n :=
   rfl
 #align fin.top_eq_last Fin.top_eq_last
 
-theorem bot_eq_zero (n : ℕ) : ⊥ = (0 : Fin (n + 1)) :=
+theorem bot_eq_zero (n : ℕ) [NeZero n] : ⊥ = (0 : Fin n) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Basic.lean:444]: Could you leave a comment explaining the asymmetry between those two lemmas?

**Comment by YaelDillies** [comment]
Actually you're missing `top_eq_rev_zero`. Do we have `rev_top : rev top = bot` and `rev_bot : rev bot = top`?

**Comment by linesthatinterlace** [comment]
I have a feeling we don't, I think I have them in one of my projects. But we do have that it's order reversing I think so maybe we do actually. Anyway, I can certainly add this.

Of course, I could add a Fin.last' n defined by being rev 0, but that seems... confusing to have.

**Comment by linesthatinterlace** [comment]
We could probably have a "rev 0 = last n" currently! Would we then also need top_eq_last? Not sure.

**Comment by YaelDillies** [comment]
I think all those lemmas are worth having

**Comment by linesthatinterlace** [comment]
Great, I'll get them in.

File: Mathlib/Data/Fin/Basic.lean [hunk 6]
```diff
@@ -430,20 +430,29 @@ instance [NeZero n] : BoundedOrder (Fin n) where
 instance : Lattice (Fin n) :=
   LinearOrder.toLattice
 
+theorem rev_bot [NeZero n] : rev (⊥ : Fin n) = ⊤ := rfl
+theorem rev_top [NeZero n] : rev (⊤ : Fin n) = ⊥ := rev_rev _
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Basic.lean:434]:
```suggestion
@[simp] theorem rev_bot [NeZero n] : rev (⊥ : Fin n) = ⊤ := rfl
@[simp] theorem rev_top [NeZero n] : rev (⊤ : Fin n) = ⊥ := rev_rev _
```

File: Mathlib/Data/Fin/Basic.lean [hunk 7]
```diff
@@ -430,20 +430,29 @@ instance [NeZero n] : BoundedOrder (Fin n) where
...
+theorem top_eq_rev_zero (n : ℕ) [NeZero n] : ⊤ = rev (0 : Fin n) := rfl
+
+theorem top_eq_last (n : ℕ) : ⊤ = last n := rfl
 #align fin.top_eq_last Fin.top_eq_last
 
-theorem bot_eq_zero (n : ℕ) [NeZero n] : ⊥ = (0 : Fin n) :=
-  rfl
-#align fin.bot_eq_zero Fin.bot_eq_zero
+/- There is a slight asymmetry here, in the sense that `0` is of type `Fin n` when we have
+`[NeZero n]` wheras `last n` is of type `Fin (n + 1)`. To address this properly would
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Basic.lean:452]:
```suggestion
`[NeZero n]` whereas `last n` is of type `Fin (n + 1)`. To address this properly would
```

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
